US07598397B2
Synthesis of 2-(3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yloxy)-propionic acid methyl ester, I-66.
Synthesis of 2-(4-Naphthalen-2-ylmethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yloxy)-propionic acid methyl ester, I-67. A mixture of compound I-66 (350 mg, 1.5 mmol), 2-(bromomethyl) naphthalene (500 mg, 2.25 mmol), KI (374 mg, 2.25 mmol) and K2CO3 (310 mg, 2.25 mmol) in DMF (8 ml) and water (10 drops) was stirred at rt over night and then partitioned between dichloromethane and water. Water layer was extracted with dichloromethane (3×30 ml). The combined organic phase was washed with water (4×30 ml), brine and dried over sodium sulfate. After removal of solvent, the residue was purified by column chromatography on silica gel with EtOAc/hexane as the eluant to give 300 mg of compound I-67. 1H-NMR (500 MHz, CDCl3).

reactant | 2-(4-Naphthalen-2-ylmethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yloxy)-propionic acid methyl ester | COC(C(C)OC1=CC=CC2=C1N(C(CO2)=O)CC2=CC1=CC=CC=C1C=C2)=O | C23H21NO5
reactant | 2-(bromomethyl) naphthalene | 2.25 mmol, 500 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | K2CO3 | 2.25 mmol, 310 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | water | 10 drops | O | H2O
product | 2-(3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yloxy)-propionic acid methyl ester | 300 mg | COC(C(C)OC1=CC=CC2=C1NC(CO2)=O)=O | C12H13NO5
